US08664220B2
Step 2: (E)-4-(4-Benzyl-phenyl)-1-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-but-3-en-1-ol
1-[5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-but-3-en-1-ol (0.380 g, 1.233 mmol) in acetonitrile (4 mL) was added to a flask containing 1-benzyl-4-iodo-benzene (0.3649 g, 1.233 mmol) and cesium carbonate (0.4102 g, 1.233 mmol). Palladium(II) acetate (0.030 g, 0.1233 mmol) was added and the reaction was heated to 85° C. and stirred overnight. The reaction was then cooled and submitted to standard aqueous workup followed by silica gel chromatography (0-50% EtOAc in hexanes) to yield the title compound.

reactant | 1-[5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-but-3-en-1-ol | 1.233 mmol, 0.380 g | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C(CC=C)O | C14H14BrNO2
reactant | 1-benzyl-4-iodo-benzene | 1.233 mmol, 0.3649 g | C(C1=CC=CC=C1)C1=CC=C(C=C1)I | C13H11I
reactant | cesium carbonate | 1.233 mmol, 0.4102 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
catalyst | Palladium(II) acetate | 0.1233 mmol, 0.030 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (E)-4-(4-Benzyl-phenyl)-1-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-but-3-en-1-ol | C(C1=CC=CC=C1)C1=CC=C(C=C1)/C=C/CC(O)C=1C(=NOC1C1=CC=C(C=C1)Br)C | C27H24BrNO2
